US06562989B2
N-(4-methoxyphenyl)benzylamine (Table 8, Entry 1)
According to the general procedure A, 4-chloroanisole (73 mg, 0.51 mmol) reacted with benzylamine (68 mg, 0.63 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (60 mg, 0.63 mmol) in toluene at 100° C. for 4 h to give the title compound (100 mg, 93%) as a solid: 1H-NMR (500 MHz, CDCl3): δ 6.63 (d, 2H, J=8.84 Hz), 6.81 (d, 2H, J=8.83 Hz), 7.41-7.35 (m, 4H), 7.30 (t, 1H, J=7.08 and 7.03 Hz), 4.31 (s, 2H), 3.77 (s, 3H). 13C{1H}-NMR (125 MHz, CDCl3): δ 152.18, 142.42, 139.66, 128.56, 127.52, 127.14, 114.89, 114.09, 55.78, 49.23. GC/MS(EI): m/z 213 (M+).

reactant | 4-chloroanisole | 0.51 mmol, 73 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | benzylamine | 0.63 mmol, 68 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 0.63 mmol, 60 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-methoxyphenyl)benzylamine | 100 mg, 93% | COC1=CC=C(C=C1)NCC1=CC=CC=C1 | C14H15NO
